US05254689
To a stirring solution of N-acetylpiperazine (2.50 g, 20 mmol) in methanol (40 mL) at 0° C. under nitrogen was added 2-methyl-6-vinyl-pyridine (2.39 g, 20 mmol) and acetic acid (1.28 mL). The mixture was stirred for 24 hours at 80° C. and was then concentrated. The residue was partitioned between 10% aqueous K2CO3 /CH2Cl2. The organic phase was dried and concentrated to afford 3.60 g (73%) of 1-acetyl-4-[2-(6-methyl-2-pyridyl)ethyl]piperazine as a brown solid which was used directly in the next step: 1H NMR (CDCl3): δ 7.48 (m, 1H), 7.0 (d, 1H), 3.63 (t, 2H), 3.45 (t, 2H), 2.95-2.60 (m, 4H), 2.50 (m, s, 9H), 2.08 (s, 3H).

reactant | N-acetylpiperazine | 20 mmol, 2.50 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 2-methyl-6-vinyl-pyridine | 20 mmol, 2.39 g | CC1=NC(=CC=C1)C=C | C8H9N
reactant | acetic acid | 1.28 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 40 mL | CO | CH4O
product | 1-acetyl-4-[2-(6-methyl-2-pyridyl)ethyl]piperazine | 3.60 g, 73% | C(C)(=O)N1CCN(CC1)CCC1=NC(=CC=C1)C | C14H21N3O
